US07737166B2
N-[4-Amino-5-cyano-2-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-methylbiphenyl-3-yl]-2,2-dimethylpropionamide (I-270)
With cooling with ice, pivaloyl chloride (0.46 ml, 3.73 mmol) was dropwise added to a chloroform (40 ml) solution of 4,5-diamino-6-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-2-methylbiphenyl-3-carbonitrile (I-269) (1.25 g, 3.73 mmol). After stirring for 3 hours, water was added to the reaction liquid to stop the reaction, followed by extraction with chloroform. The organic layer was washed with an aqueous saturated sodium hydrogencarbonate solution and saturated brine, then dried over anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, then the residue was subjected to column chromatography, and eluted with a mixed solvent of chloroform/methanol (95:5, v/v) to obtain the entitled compound (675 mg, 43%) as a brown amorphous substance.

reactant | pivaloyl chloride | 3.73 mmol, 0.46 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 4,5-diamino-6-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-2-methylbiphenyl-3-carbonitrile | NC1=C(C(=C(C(=C1N)N1C[C@H](CC1)N(C)C)C1=CC=CC=C1)C)C#N | C20H25N5
solvent | water | O | H2O
product | N-[4-Amino-5-cyano-2-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-methylbiphenyl-3-yl]-2,2-dimethylpropionamide | 675 mg, 43% | NC1=C(C(=C(C(=C1C#N)C)C1=CC=CC=C1)N1C[C@H](CC1)N(C)C)NC(C(C)(C)C)=O | C25H33N5O
